US08378102B2
Triethylamine (161 g, 1.59 mol) was added to a suspension of 7-bromo-4-hydroxyquinolin-3-aminium chloride (224 g, 0.815 mol) in dichloromethane (2.25 L), and the mixture was cooled to approximately 0° C. Acetoxyacetyl chloride (112 g, 0.820 mol) was added over a period of one hour. The reaction was stirred at room temperature for one hour and then allowed to stand for three days. A solid was present and was isolated by filtration and pressed dry. The solid was stirred in deionized water (2 L) for two hours, isolated by filtration, dried overnight on the filter funnel, and further dried in a vacuum oven at 60 to 70° C. to provide 223 g of 2-[(7-bromo-4-hydroxyquinolin-3-yl)amino]-2-oxoethyl acetate as a reddish brown solid.

reactant | Triethylamine | 1.59 mol, 161 g | C(C)N(CC)CC | C6H15N
reactant | 7-bromo-4-hydroxyquinolin-3-aminium chloride | 0.815 mol, 224 g | [Cl-].BrC1=CC=C2C(=C(C=NC2=C1)[NH3+])O
reactant | Acetoxyacetyl chloride | 0.820 mol, 112 g | C(C)(=O)OCC(=O)Cl | C4H5ClO3
solvent | dichloromethane | 2.25 L | ClCCl | CH2Cl2
product | 2-[(7-bromo-4-hydroxyquinolin-3-yl)amino]-2-oxoethyl acetate | 223 g | C(C)(=O)OCC(=O)NC=1C=NC2=CC(=CC=C2C1O)Br | C13H11BrN2O4
